US05003080
Step B: Preparation of (±)-cis-9-(2-oxoethyl)-6,10-dioxaspiro[4.5]decane-7-acetonitrile.
A solution of (±)-cis-9-(2-propenyl)-6,10-dioxaspiro[4.5]decane-7-acetonitrile, 3.4 g (15.36 mmol), in 100 mL of dichloromethane is cooled to -78° C. under nitrogen. Ozone (Welsbach generator, flow rate 0.1, voltage =90 V) is when passed through a fritted gas inlet tube into the solution until the blue color of ozone appears. The current is turned off, and oxygen bubbled through until the blue color is discharged. Triphenylphosphine, 4.2 g (16 mmol), is added and the colorless solution is allowed to warm to room temperature. Flash chromatography provides after concentration in vacuo 2.5 g of pure (±)-cis-9-(2-oxoethyl)-6,10-dioxaspiro[4.5]decane-7-acetonitrile.

reactant | (±)-cis-9-(2-propenyl)-6,10-dioxaspiro[4.5]decane-7-acetonitrile | C(C=C)[C@@H]1C[C@@H](OC2(CCCC2)O1)CC#N | C13H19NO2
reactant | Ozone | O=[O+][O-] | O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (±)-cis-9-(2-oxoethyl)-6,10-dioxaspiro[4.5]decane-7-acetonitrile | O=CC[C@@H]1C[C@@H](OC2(CCCC2)O1)CC#N | C12H17NO3
